US06664264B2
2-butyl-1-[5-(methylsulfinyl)pentyl]-1H-imidazo[4,5-c]quinolin-4-amine
A round bottom flask was charged with a magnetic stir bar, 2-butyl-1-[5-(methylthio)pentyl]-1H-imidazo[4,5-c]quinolin-4-amine (1.0 g, 2.80 mmol) and chloroform (14 mL). Solid 3-chloroperbenzoic acid (0.69 g, 3.09 mmol) was added portion wise over 5 minutes and the reaction was stirred at ambient temperature for 20 minutes at which time the starting material was completely consumed. The solution was partitioned between chloroform and saturated aqueous sodium bicarbonate. The layers were separated. The organic layer was washed with saturated aqueous sodium bicarbonate and brine, dried over anhydrous sodium sulfate, filtered and then concentrated under reduced pressure to afford an off-white solid which was shown by 1H-NMR to be the 3-chlorobenzoic acid salt of the desired product. The solid was stirred in water and then made basic (pH 10) by addition of solid sodium carbonate. The resulting free base was collected by filtration to provide a white solid which was recrystallized from acetonitrile to give 2-butyl-1-[5-(methylsulfinyl)pentyl]-1H-imidazo[4,5-c]quinolin-4-amine (0.40 g, 1.07 mmol) as a white powder, m.p. 119-121° C.

reactant | 2-butyl-1-[5-(methylthio)pentyl]-1H-imidazo[4,5-c]quinolin-4-amine | 2.80 mmol, 1.0 g | C(CCC)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCCCCSC | C20H28N4S
reactant | 3-chloroperbenzoic acid | 3.09 mmol, 0.69 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-chlorobenzoic acid | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
solvent | chloroform | 14 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-butyl-1-[5-(methylsulfinyl)pentyl]-1H-imidazo[4,5-c]quinolin-4-amine | C(CCC)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCCCCS(=O)C | C20H28N4OS
